US05364871
A solution of 4-(2-acetylaminomethylthiazol-5-yl)-2-(diaminomethyleneamino)thiazole (1.46 g) and concentrated hydrochloric acid (2.18 ml) in ethanol (15 ml) was refluxed for 5 hours with stirring. The solvent was evaporated in vacuo. The residue was made basic to pH 10 with 20% aqueous potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated in vacuo to give 4-(2-aminomethylthiazol-5-yl)-2-(diaminomethyleneamino)thiazole. 1N-hydrochloric acid (4 ml) and then potassium cyanate (360 mg) was added to the suspension of the above residue in water (10 ml) and the mixture was stirred for two hours at ambient temperature. The reaction mixture was alkalized to pH 10 with 20% aqueous potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated in vacuo. The obtained free base was converted to the dihydrochloride in an usual manner, and which was recrystallized from a mixture of methanol, water and tetrahydrofuran to give 2-(diaminomethyleneamino)-4-(2-ureidomethylthiazol-5-yl)thiazole dihydrochloride (0.65 g).

reactant | 4-(2-acetylaminomethylthiazol-5-yl)-2-(diaminomethyleneamino)thiazole | 1.46 g | C(C)(=O)NCC=1SC(=CN1)C=1N=C(SC1)N=C(N)N | C10H12N6OS2
reactant | hydrochloric acid | 2.18 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(2-aminomethylthiazol-5-yl)-2-(diaminomethyleneamino)thiazole | NCC=1SC(=CN1)C=1N=C(SC1)N=C(N)N | C8H10N6S2
